US06114538
A suspension of methyl 2-[N,N-bis(methylsulphonyl)amino]-4-methylsulphonylbenzoate (22.9 g) and lithium hydroxide monohydrate (7.5 g) in aqueous methanol (50%) was stirred at room temperature for 18 hours. The resulting solution was acidified with concentrated hydrochloric add and extracted with ethyl acetate. The combined organic extracts were dried (magnesium sulphate), filtered and evaporated to yield 2-methylsulphonylamino-4-methylsulphonylbenzoic acid as a beige solid, NMR (acetone d6); 3.1(2s,6H), 7.57(dd,1H), 8.15(d,1H), 8.23(d,1H).

reactant | methyl 2-[N,N-bis(methylsulphonyl)amino]-4-methylsulphonylbenzoate | 22.9 g | CS(=O)(=O)N(S(=O)(=O)C)C1=C(C(=O)OC)C=CC(=C1)S(=O)(=O)C | C11H15NO8S3
reactant | lithium hydroxide monohydrate | 7.5 g | O.[OH-].[Li+]
solvent | methanol | CO | CH4O
product | 2-methylsulphonylamino-4-methylsulphonylbenzoic acid | CS(=O)(=O)NC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)C | C9H11NO6S2
